US08242134B2
2-Amino-8-fluoro-3-methyl-1-oxo-1,2-dihydro-isoquinoline-4-carboxylic acid [(S)-cyclobutyl-(3-fluoro-phenyl)-methyl]-amide
A solution of 2-(1-{[(S)-cyclobutyl-(3-fluoro-phenyl)-methyl]-carbamoyl}-2-oxo-propyl)-6-fluoro-benzoic acid (2.148 g, 5.351 mmol) and tert-butyl carbazate (1.628 g, 12.32 mmol) in benzene (100 mL) was stirred under reflux for 20 hours. LC-MS indicated the formation of (4-{[(S)-Cyclobutyl-(3-fluoro-phenyl)-methyl]-carbamoyl}-8-fluoro-3-methyl-1-oxo-1H-isoquinolin-2-yl)-carbamic acid tert-butyl ester (tR=1.54, UV 39%, ELSD 80%, m/z 398.4 (major), 442.5, 498.7 (MH+)). The reaction mixture was rotovaped. The residue was dissolved in 1,2-dichloroethane (15 ml) and TFA (15 ml) was added. After 60 min it was evaporated, partitioned between sat. aq. NaHCO3 and ethyl acetate, evaporated to give a crude residue of the title compound (1.7 g) that was used in the next step without purification. LC-MS (m/z) 398.0 (MH+), tR=1.24.

reactant | 2-(1-{[(S)-cyclobutyl-(3-fluoro-phenyl)-methyl]-carbamoyl}-2-oxo-propyl)-6-fluoro-benzoic acid | 5.351 mmol, 2.148 g | C1(CCC1)[C@@H](C1=CC(=CC=C1)F)NC(=O)C(C(C)=O)C1=C(C(=O)O)C(=CC=C1)F | C22H21F2NO4
reactant | tert-butyl carbazate | 12.32 mmol, 1.628 g | C(NN)(=O)OC(C)(C)C | C5H12N2O2
reactant | (4-{[(S)-Cyclobutyl-(3-fluoro-phenyl)-methyl]-carbamoyl}-8-fluoro-3-methyl-1-oxo-1H-isoquinolin-2-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NN1C(C2=C(C=CC=C2C(=C1C)C(N[C@H](C1=CC(=CC=C1)F)C1CCC1)=O)F)=O)=O | C27H29F2N3O4
reactant | TFA | 15 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | benzene | 100 mL | C1=CC=CC=C1 | C6H6
solvent | 1,2-dichloroethane | 15 ml | ClCCCl | C2H4Cl2
product | 2-Amino-8-fluoro-3-methyl-1-oxo-1,2-dihydro-isoquinoline-4-carboxylic acid [(S)-cyclobutyl-(3-fluoro-phenyl)-methyl]-amide | 1.7 g | C1(CCC1)[C@@H](C1=CC(=CC=C1)F)NC(=O)C1=C(N(C(C2=C(C=CC=C12)F)=O)N)C | C22H21F2N3O2
